US03974161
7,8-Dimethoxypyrimido[4,5-b]Quinolin-4(3H)-One-2-Carboxamide
Anhydrous ammonia is bubbled into a mixture of ethyl 7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate (300 mg., 9.00 millimoles) in absolute ethanol (75 ml.) for fifteen minutes. A clear solution formed followed after a few minutes by formation of a precipitate. The reaction mixture is transferred to a pressure bomb (Monel) and heated in a 95° C. oil bath overnight. The bomb is then cooled to room temperature and the contents removed. The bomb is washed with ethanol and the combined reaction mixture plus wash filtered to recover the product. The filter cake is washed with ethanol and then dried in air. Yield = 260 mg. (95%). M.P. 310° C. (dec.).

reactant | ammonia | N | H3N
reactant | ethyl 7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate | 9.00 millimoles, 300 mg | COC=1C=C2C=C3C(=NC2=CC1OC)N=C(NC3=O)C(=O)OCC | C16H15N3O5
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 7,8-Dimethoxypyrimido[4,5-b]Quinolin-4(3H)-One-2-Carboxamide | COC=1C=C2C=C3C(=NC2=CC1OC)N=C(NC3=O)C(=O)N | C14H12N4O4
